US04820882
400 g of dichloroethane and 110 g (1.2 mol) of toluene were introduced initially together with 63 g (0.47 mol) of AlCl3 in the presence of 3 g (10-2 mol) of titanium tetraisopropylate or in the absence of titanium alcoholate. 44 g (1 mol) of ethylene oxide were added in the course of 1.5 h at the temperature stated in Table 3. After hydrolysis the reaction mixture was concentrated and analyzed by gas chromatography. The yields of 2-tolylethanol, obtained as a mixture of isomers, based on converted toluene, are shown in the following table:

reactant | dichloroethane | 400 g | ClC(C)Cl | C2H4Cl2
reactant | toluene | 1.2 mol, 110 g | C1(=CC=CC=C1)C | C7H8
reactant | AlCl3 | 0.47 mol, 63 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethylene oxide | 1 mol, 44 g | C1CO1 | C2H4O
catalyst | titanium tetraisopropylate | 10-2 mol, 3 g | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 2-tolylethanol | C1(=C(C=CC=C1)C(C)O)C | C9H12O
